** sch_path: /foss/designs/frac-n-pll-vco-unic_cass/schematic/lc-vco/LC_VCO_cs_tb.sch
**.subckt LC_VCO_cs_tb OUTp OUTn IOUT
*.iopin OUTp
*.iopin OUTn
*.iopin IOUT
V1 VDD GND 1.2
V2 VCTRL GND 0.6
x2 VDD OUTp OUTn IBIASVCO VCTRL GND LC_VCO
x1 IBIASVCO IOUT VDD GND Current_source
**** begin user architecture code



.include ./IHP_4nH_Inductor.spice
.param temp = 27

.control

* Initial condition
.ic v(OUTp)=0.6

* Simulation accuracy
.options reltol=1e-4 abstol=1e-9 maxstep=5p method=gear

* Save required signals
save time v(OUTp) v(CTRL)

* Long transient for ~10 kHz FFT resolution
tran 0.01n 0.5u UIC

* Save raw waveform
write LC_VCO_tb.raw

* Plot steady-state waveform
plot v(OUTp) xlimit 5n 60n

* FFT analysis
linearize v(OUTp)
fft v(OUTp)

let vmag = db(mag(v(OUTp)))

* Plot FFT spectrum
plot vmag vs frequency xlimit 0 5G

* Save FFT data
wrdata fft_output.txt frequency vmag

* Save waveform for external processing
wrdata vco_waveform.txt time v(OUTp)

.endc


 .lib cornerMOSlv.lib mos_tt
.lib cornerRES.lib res_typ
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerCAP.lib cap_typ_stat

**** end user architecture code
**.ends

* expanding   symbol:  LC_VCO.sym # of pins=6
** sym_path: /foss/designs/frac-n-pll-vco-unic_cass/schematic/lc-vco/LC_VCO.sym
** sch_path: /foss/designs/frac-n-pll-vco-unic_cass/schematic/lc-vco/LC_VCO.sch
.subckt LC_VCO VDD OUTp OUTn Ibias VCTRL GND
*.iopin VDD
*.opin OUTp
*.opin OUTn
*.iopin GND
*.iopin VCTRL
*.iopin Ibias
XM6 net1 Ibias GND GND sg13_lv_nmos w=1u l=0.15u ng=1 m=60
XM5 Ibias Ibias GND GND sg13_lv_nmos w=1u l=0.15u ng=1
XM4 OUTp OUTn VDD VDD sg13_lv_pmos w=8.5u l=0.5u ng=1 m=13
X5M3 OUTn OUTp VDD VDD sg13_lv_pmos w=8.5u l=0.5u ng=1 m=13
XM2 OUTp OUTn net1 GND sg13_lv_nmos w=2u l=0.5u ng=1 m=12
XM1 OUTn OUTp net1 GND sg13_lv_nmos w=2u l=0.5u ng=1 m=12
XC3 OUTp OUTn cap_cmim w=4.26e-6 l=4.26e-6 m=12
XMv2 OUTp VCTRL OUTp VDD sg13_lv_pmos w=4u l=4u ng=1 m=22
XMv1 OUTn VCTRL OUTn VDD sg13_lv_pmos w=4u l=4u ng=1 m=22
XR1 OUTp OUTn sub! rhigh w=1e-6 l=0.79e-6 m=1 b=0
x1 OUTn OUTp ihp_4nh_inductor
.ends


* expanding   symbol:  /foss/designs/frac-n-pll-vco-unic_cass/schematic/current_source/Current_source.sym # of pins=4
** sym_path: /foss/designs/frac-n-pll-vco-unic_cass/schematic/current_source/Current_source.sym
** sch_path: /foss/designs/frac-n-pll-vco-unic_cass/schematic/current_source/Current_source.sch
.subckt Current_source IBIASVCO IBIAS VDD GND
*.iopin IBIASVCO
*.iopin IBIAS
*.iopin VDD
*.iopin GND
XM8 GND v- net1 GND sg13_lv_nmos w=150n l=10u ng=1
XM6 net1 net1 VDD VDD sg13_lv_pmos w=1u l=1u ng=1
XM7 net2 net1 VDD VDD sg13_lv_pmos w=1u l=1u ng=1
XM9 v- net2 VDD VDD sg13_lv_pmos w=200n l=4u ng=1
XM1 GND v+ v- GND sg13_lv_nmos w=7.14u l=5u ng=4
XM2 GND net4 net4 GND sg13_lv_nmos w=21u l=5u ng=8
XM3 v- Vo1 VDD VDD sg13_lv_pmos w=15u l=5u ng=8
XM4 v+ Vo1 VDD VDD sg13_lv_pmos w=15u l=5u ng=8
XM5 VBG Vo1 VDD VDD sg13_lv_pmos w=16u l=5u ng=8
XC3 VBG GND cap_cmim w=72.965e-6 l=72.965e-6
XR3 v+ net4 sub! rppd w=0.5e-6 l=194.345e-6 m=1 b=0
XR1 v+ GND sub! rppd w=0.6e-6 l=194.345e-6 m=1 b=0
XR2 VBG GND sub! rppd w=0.5e-6 l=192.395e-6 m=1 b=0
XC1 net2 GND cap_cmim w=18.195e-6 l=18.195e-6
x1 VDD net3 v+ v- Vo1 GND two_stage_OTA
XR4 net3 GND sub! rppd w=0.5e-6 l=15e-6 m=1 b=0
XM12 IBIAS net5 GND GND sg13_lv_nmos w=2u l=0.13u ng=1
XM11 net5 net5 GND GND sg13_lv_nmos w=2u l=0.13u ng=1
XM10 net5 VBG VDD VDD sg13_lv_pmos w=3.94u l=0.13u ng=1
XM15 IBIASVCO net6 VDD VDD sg13_lv_pmos w=2.5u l=0.13u ng=1
XM14 net6 net6 VDD VDD sg13_lv_pmos w=2.5u l=0.13u ng=1
XM13 net6 VBG GND GND sg13_lv_nmos w=2.3u l=0.13u ng=1
.ends


* expanding   symbol:  /foss/designs/frac-n-pll-vco-unic_cass/schematic/current_source/two_stage_OTA.sym # of pins=6
** sym_path: /foss/designs/frac-n-pll-vco-unic_cass/schematic/current_source/two_stage_OTA.sym
** sch_path: /foss/designs/frac-n-pll-vco-unic_cass/schematic/current_source/two_stage_OTA.sch
.subckt two_stage_OTA vdd iout v+ v- vout vss
*.iopin v-
*.iopin v+
*.iopin vss
*.iopin vdd
*.iopin iout
*.iopin vout
XM4 vss net1 net3 vss sg13_lv_nmos w=720n l=9.75u ng=1
XM3 vss net1 net1 vss sg13_lv_nmos w=720n l=9.75u ng=1
XM1 net1 v- net2 vdd sg13_lv_pmos w=3.64u l=3.7u ng=1 m=2
XM2 net3 v+ net2 vdd sg13_lv_pmos w=3.64u l=3.7u ng=1 m=2
XM5 net2 iout vdd vdd sg13_lv_pmos w=5.3u l=1.95u ng=1
XM7 vout iout vdd vdd sg13_lv_pmos w=75u l=2.08u ng=8
XM6 vss net3 vout vss sg13_lv_nmos w=28.8u l=9.75u ng=4
XM9 iout iout vdd vdd sg13_lv_pmos w=75u l=2.08u ng=8
XC2 net3 vout cap_cmim w=22.295e-6 l=22.295e-6
.ends

.GLOBAL GND
.GLOBAL VDD
.GLOBAL VCTRL
.end
